US04971967
Preparation of 4-chloromethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione [compound (XVI)]:
3-Chloro-2-oxopropyl N-(2,3,4-trifluorophenyl)dithiocarbamate (4.0 g) prepared in the same manner as in Reference Example 6 was added to 30% HCl in methanol (15 ml) and the mixture was refluxed for 3 hours. The solvent was distilled off under reduced pressure and to the residue was added cooled water and the solution was extracted with chloroform. The extract was washed with a NaCl solution, dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from cyclohexane to give the title compound (2.6 g) as pale yellow crystals, m.p. 127°-130° C.

reactant | 3-Chloro-2-oxopropyl N-(2,3,4-trifluorophenyl)dithiocarbamate | 4.0 g | FC1=C(C=CC(=C1F)F)NC(SCC(CCl)=O)=S | C10H7ClF3NOS2
reactant | HCl | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 4-chloromethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione | 2.6 g | ClCC=1N(C(SC1)=S)C1=C(C(=C(C=C1)F)F)F | C10H5ClF3NS2
